US04245082
EXAMPLE II--Polyterephthalate of 3,4'-dihydroxybenzophenone
The flask was charged with 9.57 g of diacetoxybenzophenone (0.032 mole) and 4.98 g of terephthalic acid (0.03 mole) and heated, with stirring, under nitrogen at atmospheric pressure from 238° C. to 310° C. in 48 min. Most of the acetic acid by-product was liberated in this time. Heating at 310° C. continued 22 min. more. Then a vacuum of 0.2 torr (0.0266 kPa) was applied, and a temperature was raised to 325° C. in 8 min. and maintained for 17 min. The cooled polymer had an inherent viscosity, ηinh, of 0.78. Its melt was anisotropic above its flow temperature of 296° C. using the TOT test.

reactant | diacetoxybenzophenone | 0.032 mole, 9.57 g | C(C)(=O)OC=1C(=C(C(=O)C2=CC=CC=C2)C=CC1)OC(C)=O | C17H14O5
reactant | terephthalic acid | 0.03 mole, 4.98 g | C(C1=CC=C(C(=O)O)C=C1)(=O)O | C8H6O4
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3,4'-dihydroxybenzophenone | OC=1C=C(C(=O)C2=CC=C(C=C2)O)C=CC1 | C13H10O3
